US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[2-(trifluoromethyl)phenyl]-2-propen-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and 2-(trifluoromethyl)benzaldehyde (83 ul, 0.633 mmol) similar to Example 6 and isolated as a pale white-yellow solid (26 mg, 9%). 1H NMR (CDCl3): 8.02 (d, J=16.5 Hz, 1H), 7.82 (d, J=7.5 Hz, 1H), 7.72 (d, J=7.5 Hz, 1H), 7.62-7.47 (m, 2H), 7.39 (d, J=15.6 Hz, 1H), 7.29 (d, J=3.3 Hz, 1H), 7.14 (dd, J=3.2, 8.9 Hz, 1H), 6.95 (d, J=9.0 Hz, 1H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | 2-(trifluoromethyl)benzaldehyde | 0.633 mmol, 83 ul | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[2-(trifluoromethyl)phenyl]-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=C(C=CC=C1)C(F)(F)F)=O)(F)F | C20H13F9O3
